US04014679
3.9 g of diketene were added to a mixture of 6.9 g of m-(n-butyl)-aniline and 70 ml of benzene and the mixture was stirred for 2 hours at 30° C. The benzene was evaporated under reduced pressure and the residue was chromatographed over silica gel. Elution with an 8-2 mixture of methylene chloride and ethyl acetate yielded 8.5 g of m-(n-butyl)-acetylacetanilide in the form of an oil with a refractive index of nD 20 = 1.5355.

reactant | diketene | 3.9 g | C=C1CC(=O)O1 | C4H4O2
reactant | m-(n-butyl)-aniline | 6.9 g | C(CCC)C=1C=C(N)C=CC1 | C10H15N
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | m-(n-butyl)-acetylacetanilide | 8.5 g | C(CCC)C=1C=C(NC(CC(C)=O)=O)C=CC1 | C14H19NO2
